2168-06-13 07:35:00 Physician Resident Progress Note
Chief Complaint: Bradycardia/long qt
   24 Hour Events:
   basically monitored on telemetry, dopamine for 20 min. caused htn, EP
   to staff in AM, no further recs
   runs of torsades less than 2 secs overnight
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2168-6-13**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-6-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96
   HR: 39 (32 - 123) bpm
   BP: 124/67(81) {124/46(75) - 190/79(102)} mmHg
   RR: 14 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                  1,149 mL
                                                                    740 mL
   PO:
             TF:
   IVF:
                                                                  1,149 mL
                                                                    740 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                  1,000 mL
   Urine:
                                                                  1,475 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                   -260 mL
   Respiratory support
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13 K/uL
   8.8 g/dL
   109 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.2 mEq/L
   43 mg/dL
   113 mEq/L
   146 mEq/L
   25.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2168-6-12**]  05:00 PM
                             [**2168-6-12**]  11:00 PM
                             [**2168-6-13**]  03:33 AM
   WBC
   5.3
   Hct
   25.1
   Plt
   13
   Cr
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   109
   Other labs: PT / PTT / INR:15.4/27.2/1.4, CK / CKMB /
   Troponin-T:32/3/<0.01, ALT / AST:69/53, Alk Phos / T Bili:80/1.1,
   LDH:318 IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
   70 year old gentleman with diffuse large B cell lymphoma represents
   mini-MUDS (day 0= [**2168-5-3**]) admitted with asymptomatic bradycardia.
   Bradycardia/Prolonged QTC: unclear etiology at this time, although
   patient was recently on beta-blockade and nifedipine, last dose given
   one day prior to admission.  HR 70-80 on day prior to transfer and
   30-40 on day of transfer.  Metoprolol & Nifedipine cleared hepatically
   and patient has normal hepatic function.  Cyclosporine not known to
   cause increased Qtc and bradycardia. Etoposide known to cause
   hypotension, but not QTc prolongation or bradycardia. Mets to heart?
   Was on cefepime and vanco prior.
   1.        Will search for drug-drug interaction, fluconazole has been
   reported to cause prolonged QTc & torsades but not bradycardia.  Will
   replace with Caspo.
   2.        [**Month (only) 60**] need isoproterenol if continues to have runs of torsades
   3.        Ruled out for ischemia
   4.        Replete K and Mg aggressively, standing Mg, [**Hospital1 **] electrolytes
   5.        f/u EP recs
   6.        ECHO ordered
   CAD: no known hx of CAD.  Unlikely to be ACS without chest pain or EKG
   changes.  3 sets of negative cardiac enzymes.
   HTN: He developed moderate hypertension in his last admission which was
   felt to be due to cyclosporine. He was started on nifedipine and
   metoprolol  decreased nifedipine to 60mg as may contribute to pedal
   edema, d/c'd completely [**6-10**]. Monitor
   RHYTHM: bradycardic, will remain on telemetry
   ARF: Baseline Cr is 1.0, currently 1.3.  FENA 9.1, likely CSA toxicit
   1.        Monitor Cr
   Hypernatremia- D5
 normal saline while NPO
   Lymphoma: Please refer to BMT note for all details
   1.        BMT Service to follow, switch to caspo ppx given diflucan may
   cause long qt
   2.        NPO given concern GVHD for diarrhea
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-6-12**] 02:10 PM
   20 Gauge - [**2168-6-12**] 05:04 PM
   Prophylaxis:
   DVT: Boots, ambulation
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Code status: FULL
   Disposition: ICU until QT<550

2168-06-13 09:17:00 Physician Attending Progress Note
Chief Complaint: bradycardia and prolonged QTc
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   asymptomatic
   htn 160/80
   30's--> 80s with actuvuty
   QT 600
   on cefe vanco for febrile neutropenia
   ep c/s--> dopa gtt--> hypertensive to 190's --> dc'd  5 runs torsades,
   repelting K and mg aggressively
   diflucon changed to caspo (held decadron, etop)
   History obtained from Patient, ho
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2168-6-13**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-6-13**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 73 (32 - 123) bpm
   BP: 139/85(99) {124/46(75) - 190/85(102)} mmHg
   RR: 27 (13 - 32) insp/min
   SpO2: 100% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,149 mL
                                                                    701 mL
   PO:
             TF:
   IVF:
                                                                  1,149 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                  1,050 mL
   Urine:
                                                                  1,475 mL
                                                                  1,000 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                   -349 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   13 K/uL
   109 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.2 mEq/L
   43 mg/dL
   113 mEq/L
   146 mEq/L
   25.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2168-6-12**]  05:00 PM
                             [**2168-6-12**]  11:00 PM
                             [**2168-6-13**]  03:33 AM
   WBC
   5.3
   Hct
   25.1
   Plt
   13
   Cr
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   109
   Other labs: PT / PTT / INR:15.4/27.2/1.4, CK / CKMB /
   Troponin-T:32/3/<0.01, ALT / AST:69/53, Alk Phos / T Bili:80/1.1,
   LDH:318 IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Imaging: no new imaging
   Microbiology: no new data
   Assessment and Plan
   70 year old gentleman with diffuse large B cell lymphoma represents
   mini-MUDS (day 0= [**2168-5-3**]) admitted with asymptomatic bradycardia and
   prolonged Qtc.
   # Bradycardia
   # Prolonged QTC: unclear etiology at this time, likely med effect of
   ijnteraction
   risk for torsades now with very short runs
   although patient was recently on beta-blockade and nifedipine, last
   dose given one day prior to admission.  HR 70-80 on day prior to
   transfer and 30-40 on day of transfer.  Metoprolol & Nifedipine cleared
   hepatically and patient has normal hepatic function.  Cyclosporine not
   known to cause increased Qtc and bradycardia. Etoposide known to cause
   hypotension, but not QTc prolongation or bradycardia. Mets to heart?
   1.        Will search for drug-drug interaction, fluconazole has been
   reported to cause prolonged QTc & torsades but not bradycardia.  Will
   replace with Caspo.
   2.        Cycle cardiac enzymes--ruled out
   3.        Replete lytes as needed
   Dopamine --> hypertension but if increased runs of torasades  will need
   HR increasing meds
   isoproterinol
   will start Q 6 albuterol-->  montipoing lytes closely
   OOB as it's only increased his BP and hasn't changed his HR
   if runs of  torsades
   ECHO ordered today
   daily ecg  safe for floor transfer once qtc < 550
   ep appreciated
   standing mg, aggressive K repalcement
   CAD: no known hx of CAD.  Unlikely to be ACS without chest pain or EKG
   changes.  Cycle enzymes for confirmation.
   HTN: He developed moderate hypertension in his last admission which was
   felt to be due to cyclosporine. He was started on nifedipine and
   metoprolol  decreased nifedipine to 60mg as may contribute to pedal
   edema, d/c'd completely [**6-10**]. continue metoprolol, monitor BP
   RHYTHM: bradycardic, will remain on telemetry
   # ARF: Baseline Cr is 1.0, currently 1.3.
   Likely pre-renal in setting of diarrhea
   fena 9.1
   likely drug-induced
   montior cyclo levels
   # electrolytes--difficulty tolerating repletiong IV and PO -> picc
   placement
   # Lymphoma: Please refer to BMT note for all details
   bmt recs
    # diarrhea--NPO, BMT evaluation today regarding starting diet
   maintenance IVF while NPO
   # Fever: culture negative as per last admission.
   Fluconazole known to cause case reports of QTc, but not bradycardia.
   Will switch Fluconazole to Caspofungin
   As per BMT note:
   The patient had been febrile when neutropenic during his last admission
   and had been treated with cefepime (d/c'd [**5-19**]), flagyl, caspo, and
   Vanco (DC'd [**5-20**]), all of which were weaned as he defervesced. Imaging,
   cultures and screens for c. diff were unrevealing and he had been
   transitioned to fluconazole, acyclovir and bactrim for prophylaxis. On
   admission he had no localizing symptoms, but did have a line which was
   a potential infectious source. He had one day of loose stools but this
   was in the context of taking stool softeners for constipation, on
   admission he felt constipated. Suspected line infection v. fungal
   pulmonary infection v. disease recurrence v. hemophagocytic syndrome.
   More likely disease recurrence as cultures NGTD, CXR neg, no evidence
   of infection on CT, fever persisted despite antibiotics and taking out
   the PICC, and there is evidence for disease recurrence on CT, but have
   to rule out certain infections such as TB. ID consulted.
   - d/c'd vanc and cefepime on [**6-1**] (started [**5-30**] for possible line
   infection and being functionally neutropenic). continued to spike.
   restarted vanc [**6-2**], continued to spike. d/c'd line [**6-3**] and d/c'd vanc
   on [**6-5**] as cath tip culture was negative and he continued to spike.
   restarted cefepime [**6-8**] due to AMS w/spikes, stopped [**6-10**] as no
   difference
   - f/u surveillance blood and mycolytic cultures from peripheral and
   line- NGTD, CMV neg, b-glucan/galactommanan negative
   - checked CMV neg, EBV neg, parvovirus (neg) and herpes 6 viral loads
   (POSITIVE) given BM findings to r/o infection, check urine/stool TB,
   check toxoplasma antibodies (neg), Measles (neg), HHV-8 (neg), adeno
   viral PCRs (neg), Salmonella studies on stool (neg)
   -unfortunately BM material was not sent for TB cultures. there is some
   question of him having had TB in his youth and [**First Name8 (NamePattern2) 831**] [**Last Name (NamePattern1) 810**] had
   recommended starting him on anti-TB meds after day +30
   - considering biopsy if liver lesions to r/o infection v lymphoma
   - ID consult appreciated
   - **LP [**6-8**] to r/o infections and/or leptomeningeal disease, sent for
   toxo, JP, enterovirus
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2168-6-12**] 02:10 PM
   20 Gauge - [**2168-6-12**] 05:04 PM
   Prophylaxis:
   DVT: Boots(OOB)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-06-14 07:50:00 Physician Resident Progress Note
Chief Complaint: Acquired Long QT/bradycardia
   24 Hour Events:
 EKG - At [**2168-6-13**] 09:47 AM
 TRANSTHORACIC ECHO - At [**2168-6-13**] 11:15 AM
 EKG - At [**2168-6-13**] 08:45 PM
 EKG - At [**2168-6-14**] 01:25 AM
   Reviewed med list for QT prolonging agents -> no clear sources among
   current agents.
   - Started Isoproterenol during the day but QT improved in PM, so held
   overnight.  No Torsades o/n, had narrow complex tachycardia that looked
   sinus by tele to 150's w/ activity
   - Having difficulty keeping up with K+ repletion peripherally.
   - BMT -> NPO even Meds given concern for GVHD of gut.
   - Cyclosporin Level -  pending
   - Echo: EF 45%.
   - Platelets in AM x2 for IR guided PICC today.
   - HHV6 in CSF, ID rec: No treat
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2168-6-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-6-13**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-6-14**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 53 (41 - 100) bpm
   BP: 132/69(91) {119/58(74) - 169/79(99)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                  2,792 mL
                                                                    660 mL
   PO:
             TF:
   IVF:
                                                                  2,593 mL
                                                                    660 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                  2,200 mL
                                                                    450 mL
   Urine:
                                                                  2,150 mL
                                                                    450 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11 K/uL
   8.1 g/dL
   96 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.5 mEq/L
   38 mg/dL
   118 mEq/L
   147 mEq/L
   23.5 %
   1.5 K/uL
        [image002.jpg]
                             [**2168-6-12**]  05:00 PM
                             [**2168-6-12**]  11:00 PM
                             [**2168-6-13**]  03:33 AM
                             [**2168-6-13**]  02:28 PM
                             [**2168-6-14**]  04:00 AM
   WBC
   5.3
   2.1
   1.5
   Hct
   25.1
   23.4
   23.5
   Plt
   13
   16
   11
   Cr
   1.2
   1.3
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   109
   131
   96
   Other labs: PT / PTT / INR:15.4/27.2/1.4, CK / CKMB /
   Troponin-T:32/3/<0.01, ALT / AST:58/36, Alk Phos / T Bili:76/1.0,
   LDH:271 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Imaging: none
   ECG: QTcorrected  this morning 426 msec, hr 60
   Assessment and Plan
   70 year old gentleman with diffuse large B cell lymphoma represents DAY
   42 s/p mini-MUDS (day 0= [**2168-5-3**]) admitted with asymptomatic
   bradycardia and prolonged QT interval to 650msec
   Bradycardia/Prolonged QTC: unclear etiology at this time, although
   patient was recently on beta-blockade and nifedipine, last dose given
   one day prior to admission.  HR 70-80 on day prior to transfer and
   30-40 on day of transfer.  Metoprolol & Nifedipine cleared hepatically
   and patient has normal hepatic function.  Cyclosporine not known to
   cause increased Qtc and bradycardia. Etoposide known to cause
   hypotension, but not QTc prolongation or bradycardia. Mets to heart?
   Was on cefepime and vanco prior.
   1.        Fluconazole most likely culprit, switched to caspofungin
   2.        Isoproternol caused narrow complex tachycardia, stopped
   3.        Ruled out for ischemia
   4.        Replete K and Mg aggressively, standing Mg, [**Hospital1 **] electrolytes
   5.        f/u EP recs- given thrombocytopenia would not place pacer
   6.        ECHO shows EF 45-50%
   7.        Daily ECG
   .
   HTN: He developed moderate hypertension in his last admission which was
   felt to be due to cyclosporine. He was started on nifedipine and
   metoprolol  decreased nifedipine to 60mg as may contribute to pedal
   edema, d/c'd completely [**6-10**]. Monitor
   .
   RHYTHM: bradycardic, will remain on telemetry, trending upwards
   .
   ARF: at b/l with IVF, CSA nephrotoxicity likely contributing
   .
   Lymphoma: Please refer to BMT note for all details
   1.        BMT Service to follow, switch to caspo ppx given diflucan may
   cause long qt
   2.        NPO given concern GVHD
   3.        CSA level this AM, continue with IV given NPO status
   .
   HHV 6
   - no tx per ID
   .
   ACCESS
   - receiving plt and going for PICC placement today for electrolyte
   repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-6-12**] 02:10 PM
   20 Gauge - [**2168-6-12**] 05:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2168-06-14 08:55:00 Physician Attending Progress Note
Chief Complaint: bradycardia, prolonged QTc
   HPI:  70 year old gentleman with diffuse large B cell lymphoma s/p
   mini-MUDS (day 0= [**2168-5-3**]) with asymptomatic bradycardia and prolonged
   Qtc.
   24 Hour Events:
   - Electrolytes repleted aggressively
   - transiently on isoproterenol
   - TTE
   - Scheduled for picc placement today after platelet transfusions
   - HHV6 from CSF: no Rx per ID
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2168-6-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-6-14**] 08:00 AM
   Other medications:
   Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-6-14**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 77 (41 - 100) bpm
   BP: 158/80(96) {119/58(74) - 173/80(99)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,792 mL
                                                                    946 mL
   PO:
           TF:
   IVF:
                                                                  2,593 mL
                                                                    720 mL
   Blood products:
                                                                    199 mL
                                                                    226 mL
   Total out:
                                                                  2,200 mL
                                                                    570 mL
   Urine:
                                                                  2,150 mL
                                                                    570 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   11 K/uL
   96 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.5 mEq/L
   38 mg/dL
   118 mEq/L
   147 mEq/L
   23.5 %
   1.5 K/uL
        [image002.jpg]
                             [**2168-6-12**]  05:00 PM
                             [**2168-6-12**]  11:00 PM
                             [**2168-6-13**]  03:33 AM
                             [**2168-6-13**]  02:28 PM
                             [**2168-6-14**]  04:00 AM
   WBC
   5.3
   2.1
   1.5
   Hct
   25.1
   23.4
   23.5
   Plt
   13
   16
   11
   Cr
   1.2
   1.3
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   109
   131
   96
   Other labs: PT / PTT / INR:15.4/27.2/1.4, CK / CKMB /
   Troponin-T:32/3/<0.01, ALT / AST:58/36, Alk Phos / T Bili:76/1.0,
   LDH:271 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   ECG: QTc 426
   HR 60
   Assessment and Plan
   70 year old gentleman with diffuse large B cell lymphoma s/p mini-MUDS
   (day 0 = [**2168-5-3**]) w/ asymptomatic bradycardia and prolonged Qtc.
   # Bradycardia
   # Prolonged QTC
   suspected medication effect, though brady at baseline, asx from HD
   standpoint
   - ep c/s appreciated
   - holding avn blockers
   - flucon  changed to caspo
   - brady imrpoved, nausea from albuterol, so will d/c given improvement
   in brady
   - Aggressive repletion of K and mg
   - Ruled out for MI by enzymes
   - QTc < remains in 400 range since yesterday
   # HTN--developed mod HTN last admit, felt [**2-27**] cyclosporin
   Holding avn blockers
   # ARF
b/l cr 1.0
   - does not appear prerenal (diarrhea) as fena 9.1
   - likely drug-induced
   - improving
   - monitor cyclo levels
   # diarrhea--NPO, suspected GVH/mucocytis
   - will likely start TPN after picc placement
   - maintenance IVF while NPO
    # Lymphoma--
   - bmt recs
   # thrombocytopenia
monitor, transfuse around procedures
   # Fever
 felt likely [**2-27**] ds recurrence
    S/p extensive eval as below:
   Imaging, cultures and screens for c. diff were unrevealing
   Per BMT transitioned to fluconazole, acyclovir and bactrim for
   prophylaxis.
   On this admission
 w/o localizing symptoms
       Line potential infectious source
      one day of loose stools
 taking stool softeners for
   constipationMore likely disease recurrence as cultures NGTD, CXR neg,
   no evidence of infection on CT, fever persisted despite antibiotics and
   taking out the PICC, and there is evidence for disease recurrence on
   CT, but have to rule out certain infections such as TB. ID consulted.
   - f/u surveillance blood and mycolytic cultures from peripheral and
   line- NGTD,
   CMV neg, b-glucan/galactommanan negative
   -EBV neg, parvovirus (neg) and herpes 6 viral loads (POSITIVE) given BM
   findings to r/o infection, check urine/stool TB, check toxoplasma
   antibodies (neg), Measles (neg), HHV-8 (neg), adeno viral PCRs (neg),
   Salmonella studies on stool (neg)
   - BM material not sent for TB cultures (? of him having had TB in his
   youth, [**First Name8 (NamePattern2) 831**] [**Last Name (NamePattern1) 810**] recommended starting anti-TB meds after day +30 )
   - considering biopsy if liver lesions to r/o infection v lymphoma
   - ID consult appreciated
   - LP [**6-8**] to r/o infections and/or leptomeningeal disease, sent for
   toxo, JP, enterovirus
   ICU Care
   Nutrition:
   Comments: NPO--> likely will start tpn
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-6-12**] 02:10 PM
   20 Gauge - [**2168-6-12**] 05:04 PM
   Comments: awaits IR picc placement
   Prophylaxis:
   DVT: (OOB)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes